US20010014677A1
(a) 1-Chloro-4-ethoxy-2-methylbenzene
To a solution of 1-chloro-4-hydroxymethylbenzene (14.2 g, 0.1 mol) in tetrahydrofuran (250 ml) was added sodium hydride as a 40% suspension in oil (4 g, 0.1 mol) portionwise under nitrogen. When effervescence ceased iodoethane (15.6 g, 0.1 mol) was added and the solution heated at reflux for 8 hours. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was washed with dilute aqueous sodium hydroxide and brine, then dried (MgSO4) and evaporated to dryness. The subtitle compound was obtained as a clear oil (17.3 g). 1H NMR (300 MHz CDCl3): δ=1.40 (t, 3H), 2.35 (s, 3H), 4.00 (q, 2H), 6.65 (dt, 1H), 6.75 (d, 1H), 7.20 (d, 1H).

reactant | 1-chloro-4-hydroxymethylbenzene | 0.1 mol, 14.2 g | ClC1=CC=C(C=C1)CO | C7H7ClO
reactant | sodium hydride | [H-].[Na+]
reactant | iodoethane | 0.1 mol, 15.6 g | ICC | C2H5I
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-Chloro-4-ethoxy-2-methylbenzene | ClC1=C(C=C(C=C1)OCC)C | C9H11ClO
